US07001904B1
N-(6,7-dimethoxyquinazolin-4-yl)-N′-(2,6-dimethylphenyl)-N″-[2-(N-methylpyrrolidin-2-yl)ethyl]guanidine
Using an analogous procedure to that described in Example 11. N-(7-hydroxy-6-methoxyquinazolin-4-yl)-N′-(2,6-dimethylphenyl)-N″-[2-(N-methylpyrrolidin-2-yl)ethyl]guanidine was reacted with trimethylsilyldiazomethane to give the title compound; NMR Spectrum: (DMSOd6, 100° C.) 1.65 (m, 3H), 1.68 (m, 1H), 1.8–1.96 (m, 2H), 2.07 (q, 1H), 2.15 (s, 3H), 2.32 (s, 6H), 2.32 (s, 6H), 2.79 (br t, 1H), 2.59 (m, 1H), 2.69 (m, 1H), 3.84 (s, 3H), 3.95 (s, 3H), 7.08 (s, 1H), 7.20 (m, 4H), 7.74 (s, 1H), 8.47 (s, 1H), 10.9–11.3 (br s, 1H); Mass Spectrum: M+H+ 463.

reactant | N-(7-hydroxy-6-methoxyquinazolin-4-yl)-N′-(2,6-dimethylphenyl)-N″-[2-(N-methylpyrrolidin-2-yl)ethyl]guanidine | OC1=C(C=C2C(=NC=NC2=C1)NC(=NCCC1N(CCC1)C)NC1=C(C=CC=C1C)C)OC | C25H32N6O2
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
product | N-(6,7-dimethoxyquinazolin-4-yl)-N′-(2,6-dimethylphenyl)-N″-[2-(N-methylpyrrolidin-2-yl)ethyl]guanidine | COC=1C=C2C(=NC=NC2=CC1OC)NC(=NCCC1N(CCC1)C)NC1=C(C=CC=C1C)C | C26H34N6O2
